US03965120
Methyl-8,10-undecadienoate
To a solution of allyl triphenylphosphonium bromide (38.4 g.) in 500 ml. of ether stirred under N2 is added 58 ml. of 1.7 M n-butyl lithium in hexane over 5 minutes. After 20 minutes the stirred mixture is cooled to 0°C. and 17.0 g. of methyl 8-oxo-octanoate in 100 ml. of ether is added over 30 minutes, resulting in discharge of the red ylid color. The mixture is stirred 90 minutes at room temperature, filtered, and the precipitate washed with ether. The combined filtrate and washings are washed with water, saturated aqueous sodium chloride, dried over MgSO4 and concentrated to dryness under vacuum. Distillation of the residue (14.3 g.) at 0.05 mm. gives methyl undeca -8,10 dienoate (7.0 g.) b.p. 65°-70°/0.05 mm. λmaxCH3OH 226 mm. (26,700).

reactant | allyl triphenylphosphonium bromide | 38.4 g | [Br-].C(C=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
reactant | n-butyl lithium | 1.7 M | C(CCC)[Li]
reactant | methyl 8-oxo-octanoate | O=CCCCCCCC(=O)OC | C9H16O3
solvent | hexane | CCCCCC | C6H14
product | Methyl-8,10-undecadienoate | COC(CCCCCCC=CC=C)=O | C12H20O2
